US07728030B2
(2S,3S)-4-(2,4-difluorophenoxy)-3-hydroxybutan-2-aminium chloride (305b)
Benzyl (2S,3S)-4-(2,4-difluorophenoxy)-3-hydroxybutan-2-ylcarbamate (426 mg, 1.21 mmol) in ethanol (20 mL) was hydrogenated over Pd (10% on carbon) (40.0 mg) at r.t. and atmospheric pressure overnight. The mixture was filtered through celite, evaporated, dissolved in ethanol and filtered through a syringe filter. On evaporation a white solid was obtained. This was dissolved in ethanol (4 mL) and diethyl ether (6 mL) and 1M HCl in diethyl ether was added (1.5 mL) under stirring. Evaporation, coevaporation from dichloromethane/diethylether gave the title compound as a solid, (290 mg, 94%).

reactant | Benzyl (2S,3S)-4-(2,4-difluorophenoxy)-3-hydroxybutan-2-ylcarbamate | 1.21 mmol, 426 mg | FC1=C(OC[C@H]([C@H](C)NC(OCC2=CC=CC=C2)=O)O)C=CC(=C1)F | C18H19F2NO4
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd | 40.0 mg | [Pd] | Pd
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
product | (2S,3S)-4-(2,4-difluorophenoxy)-3-hydroxybutan-2-aminium chloride | 290 mg, 94% | [Cl-].FC1=C(OC[C@H]([C@H](C)[NH3+])O)C=CC(=C1)F | InChI=1S/C10H13F2NO2.ClH/c1-6(13)9(14)5-15-10-3-2-7(11)4-8(10)12;/h2-4,6,9,14H,5,13H2,1H3;1H/t6-,9+;/m0./s1
